US08455475B2
7-(Pyridin-4-yl)-2,7-diazaspiro[4.5]decane trihydrochloride (AMN-15)
The synthesis was carried out analogously to the synthesis of amine AMN-07. For this, in step (i) tert-butyl 2,7-diazaspiro[4.5]decane-2-carboxylate was reacted with 4-chloropyridinium chloride (yield: 53%). The Boc protective group was then split off. In step (ii), ethanol (8 ml) and acetyl chloride (0.37 ml, 5.355 mmol) were added to tert-butyl 7-(pyridin-4-yl)-2,7-diazaspiro[4.5]decane-2-carboxylate (0.34 g, 1.071 mmol) and the mixture was stirred at room temperature for 12 h. When the reaction was complete, the solvent was removed in vacuo. Yield: 0.28 g (80%)

reactant | acetyl chloride | 5.355 mmol, 0.37 ml | C(C)(=O)Cl | C2H3ClO
reactant | tert-butyl 7-(pyridin-4-yl)-2,7-diazaspiro[4.5]decane-2-carboxylate | 1.071 mmol, 0.34 g | N1=CC=C(C=C1)N1CC2(CCN(C2)C(=O)OC(C)(C)C)CCC1 | C18H27N3O2
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | 7-(Pyridin-4-yl)-2,7-diazaspiro[4.5]decane trihydrochloride | Cl.Cl.Cl.N1=CC=C(C=C1)N1CC2(CCNC2)CCC1 | InChI=1S/C13H19N3.3ClH/c1-4-13(5-8-15-10-13)11-16(9-1)12-2-6-14-7-3-12;;;/h2-3,6-7,15H,1,4-5,8-11H2;3*1H
